US04001237
4-Amino-6,7-dimethoxy-2-[4-(isoxazole-4-carbonyl)-piperazin-1-yl]quinazoline Hydrochloride
A solution of isoxazole-4-carbonyl chloride (1.06 g., 8.08 mmole) in dioxane (8 ml.) was added to a solution of 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (2.34 g., 8.08 mmole) in dioxane (200 ml.). The mixture was stirred at room temperature for 20 hours. Filtration gave the title compound, which, after recrystallization from methanol, had a m.p. of 225°-260° C. with decomposition.

reactant | isoxazole-4-carbonyl chloride | 8.08 mmole, 1.06 g | O1N=CC(=C1)C(=O)Cl | C4H2ClNO2
reactant | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | 8.08 mmole, 2.34 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6,7-dimethoxy-2-[4-(isoxazole-4-carbonyl)-piperazin-1-yl]quinazoline Hydrochloride | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C=1C=NOC1 | InChI=1S/C18H20N6O4.ClH/c1-26-14-7-12-13(8-15(14)27-2)21-18(22-16(12)19)24-5-3-23(4-6-24)17(25)11-9-20-28-10-11;/h7-10H,3-6H2,1-2H3,(H2,19,21,22);1H
